US08217032B2
8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride
Dissolve 1-{2-[4-(8-fluoro-2-methoxy-5H-6-thia-chrysen-5-yl)-phenoxy]-ethyl}-piperidine (330 mg, 0.67 mmol) in methylene chloride (6.0 mL) and add 2M HCl in ether (0.67 mL). Concentrate in vacuo and dissolve in dry methylene chloride (6.0 mL). Add 2-methyl-2-butene (0.71 mL, 6.7 mmol) and cool to 0° C. under nitrogen. Add boron tribromide (0.25 mL, 2.7 mmol) slowly and stir at 0° C. for 20 minutes. Pour the reaction into saturated aqueous sodium bicarbonate and extract with methylene chloride/methanol (4:1). Dry organic layer with sodium sulfate, filter and concentrate in vacuo. Purify the resultant oil over silica gel (0% to 3% methanol in methylene chloride). Dissolve the resultant oil in methylene chloride (3 mL) and add 2M HCl in ether (0.5 mL). Remove the solvent in vacuo and place in a 50° C. vacuum oven overnight to yield 225 mg (65%) of the title compound: mass spectrum (ion spray) m/z=486.3 (M−Cl).

reactant | 1-{2-[4-(8-fluoro-2-methoxy-5H-6-thia-chrysen-5-yl)-phenoxy]-ethyl}-piperidine | 0.67 mmol, 330 mg | FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)OC)C1=CC=C(OCCN2CCCCC2)C=C1 | C31H30FNO2S
reactant | HCl | 2M | Cl | ClH
reactant | 2-methyl-2-butene | 6.7 mmol, 0.71 mL | CC(C)=CC | C5H10
reactant | boron tribromide | 2.7 mmol, 0.25 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 0.67 mL | CCOCC | C4H10O
product | 8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride | 225 mg, 65% | Cl.FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H28FNO2S.ClH/c31-22-7-12-26-27-11-6-21-18-23(33)8-13-25(21)29(27)30(35-28(26)19-22)20-4-9-24(10-5-20)34-17-16-32-14-2-1-3-15-32;/h4-13,18-19,30,33H,1-3,14-17H2;1H
